Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
Laparoscopic appendectomy
 
History of Present Illness:
Patient is a ___ y/o F  with a history of multiple sclerosis
presenting with right lower quadrant abdominal pain. She reports
the pain started yesterday at 1 pm. She states the pain started
in the periumbilical area and has now migrated to the right 
lower
quadrant with radiation to the back. She reports fevers, chills,
nausea, but denie vomiting, diarrhea. She had one recorded fever
to 101.0 at home. Given her symptoms, the patient presented to
her urgent care facility where CT abdomen was performed which
showed appendicitis, thus she was referred to the ___ the
emergency department.
 
Past Medical History:
PMH: Multiple Sclerosis

PSH: D&C 
 
Social History:
___
Family History:
Grandfather - Lung Cancer 
 
Physical Exam:
Vitals: T 99.2 85 97/47 16 18%RA

GENERAL: AAOx3 NAD
HEENT: NCAT, EOMI, PERRLA, No scleral icterus, mucosa moist, no 
LAD
CARDIOVASCULAR: R/R/R, S1/S2, NO M/R/G
CAROTIDS: 2+, No bruits or JVD
PULMONARY: CTA ___, No crackles or rhonchi
GASTROINTESTINAL: S/NT/ND. No guarding, rebound, or frank 
peritonitis. +BSx4
INCISION/WOUNDS: C/D/I. Soft, no hematoma or ecchymosis. No 
signs of infection.
EXT/MS/SKIN: No C/C/E; Feet warm. Good perfusion
NEUROLOGICAL: Reflexes, strength, and sensation grossly intact
CNII-XII: WNL
 
Pertinent Results:
___ 12:55PM   PLT COUNT-217
___ 12:55PM   NEUTS-86.0* LYMPHS-5.9* MONOS-7.4 EOS-0.1* 
BASOS-0.2 IM ___ AbsNeut-15.39* AbsLymp-1.05* AbsMono-1.32* 
AbsEos-0.01* AbsBaso-0.04
___ 12:55PM   WBC-17.9* RBC-4.31 HGB-13.0 HCT-38.9 MCV-90 
MCH-30.2 MCHC-33.4 RDW-12.1 RDWSD-40.0
___ 12:55PM   estGFR-Using this
___ 12:55PM   GLUCOSE-99 UREA N-10 CREAT-0.7 SODIUM-135 
POTASSIUM-4.2 CHLORIDE-97 TOTAL CO2-24 ANION GAP-18
___ 01:00PM   LACTATE-1.2
___ 01:00PM   ___ COMMENTS-GREEN TOP
___ 01:50PM URINE  RBC-3* WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 01:50PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 01:50PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:50PM URINE  GR HOLD-HOLD
___ 01:50PM URINE  UHOLD-HOLD
___ 01:50PM URINE  HOURS-RANDOM
___ 01:50PM URINE  HOURS-RANDOM
 
Brief Hospital Course:
Ms ___ acute appendicitis based on work up and physical 
exam. She therefore underwent laparoscopic appendectomy on 
___. Intraoperatively, there were no complications. pt 
tolerated procedure well and was brought back to the floor after 
an uneventful stay at the PACU. For details of the procedure, 
please refer to the operative note.

N:pt was AAOx3 throughout hospitalization. Pain was managed with 
oxycodone as well as APAP. 
CV: Cardiovascular functions were monitored routinely 
noninvasively and pt was hemodynamically stable.
PULM: Pulmonary toilet was encouraged with early oob/amb and IS.
GI: pt's diet was advanced as tolerated.
GU: pt's fluid balance was recorded and electrolytes were 
repleted appropriately.
ID: pt was afebrile throughout hospitalization.
DVT ppx was given as HSQ.

Upon d/c, pt was doing well, afebrile, and hemodynamically 
stable wnl. pt received discharge instructions and teaching, 
along with follow up instructions. pt verbalizes agreement and 
understanding of discharge plans.

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H 
RX *acetaminophen [8 HOUR PAIN RELIEVER] 650 mg 1 tablet(s) by 
mouth every 4 hours Disp #*50 Tablet Refills:*0
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*50 Capsule Refills:*0
3. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 capsule(s) by mouth every 4 hours as needed 
Disp #*20 Capsule Refills:*0
4. Senna 8.6 mg PO BID 
RX *sennosides [Evac-U-Gen (sennosides)] 8.6 mg 1 tablet by 
mouth twice a day as needed Disp #*50 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute appendicitis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms ___,
 It was a pleasure taking care of you here at ___ 
___. You were admitted to our hospital for 
acute appendicitis. You have recovered well and are now ready to 
be discharged home. Please follow the recommendations below to 
ensure a speedy and uneventful recovery.

 ACTIVITY:
 - Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.
 - You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit.
 - Don't lift more than 40 lbs for 6 weeks. (If you cannot speak 
normally while lifting, then it is too heavy!)
 - You may start some light exercise when you feel comfortable.
 - You will need to stay out of bathtubs or swimming pools for a 
time while your incision is healing. Ask your doctor when you 
can resume tub baths or swimming.
- Heavy exercise may be started after 6 weeks, but use common 
sense and go slowly at first.

 HOW YOU MAY FEEL:
 - You may feel weak or "washed out" for 6 weeks. You might want 
to nap often. Simple tasks may exhaust you.
 - You may have a sore throat because of a tube that was in your 
throat during surgery.
 - You might have trouble concentrating or difficulty sleeping. 
You might feel somewhat depressed.
 - You could have a poor appetite for a while. Food may seem 
unappealing.
 - All of these feelings and reactions are normal and should go 
away in a short time. If they do not, tell your surgeon.

 YOUR INCISION:
 - Your incision may be slightly red around the edges. This is 
normal.
 - If you have steri-strips, do not remove them for 2 weeks. 
(These are the thin paper strips that are on your incision.) But 
if they fall off before that that's okay).
 - You may gently wash away dried material around your incision.
 - It is normal to feel a firm ridge along the incision. This 
will go away.
 - Avoid direct sun exposure to the incision area.
 - Do not use any ointments on the incision unless you were told 
otherwise.
 - You may see a small amount of clear or light red fluid 
staining your dressing or clothes. If the staining is severe, 
please call your surgeon.
 - You may shower. As noted above, ask your doctor when you may 
resume tub baths or swimming.
 - Over the next ___ months, your incision will fade and become 
less prominent.

 YOUR BOWELS:
 - Constipation is a common side effect of narcotic medicine. If 
needed, you were given prescriptions for an over the counter 
stool softener (such as Colace, one capsule) or gentle laxative 
(such as milk of magnesia, 1 tbs) - you may take this twice a 
day if needed. You can get both of these medicines without a 
prescription if you need more.
 - If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon.
 - After some operations, diarrhea can occur. If you get 
diarrhea, don't take anti-diarrhea medicines. Drink plenty of 
fluids and see if it goes away. If it does not go away, or is 
severe and you feel ill, please call your surgeon.

 PAIN MANAGEMENT:
 - It is normal to feel some discomfort/pain following abdominal 
surgery. This pain is often described as "soreness".
 - Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon.
 -You will receive a prescription from your surgeon for pain 
medicine to take by mouth. It is important to take this medicine 
as directed.
 - Do not take it more frequently than prescribed. Do not take 
more medicine at one time than prescribed.
 - Your pain medicine will work better if you take it before 
your pain gets too severe.
 - Talk with your surgeon about how long you will need to take 
prescription pain medicine. Please don't take any other pain 
medicine, including non-prescription pain medicine, unless your 
surgeon has said its okay.
 - If you are experiencing no pain, it is okay to skip a dose of 
pain medicine.
 - Remember to use your "cough pillow" for splinting when you 
cough or when you are doing your deep breathing exercises.
 If you experience any of the following, please contact your 
surgeon:
 - sharp pain or any severe pain that lasts several hours
 - pain that is getting worse over time
 - pain accompanied by fever of more than 101
 - a drastic change in nature or quality of your pain

 MEDICATIONS:
 - Take all the medicines you were on before the operation just 
as you did before, unless you have been told differently.
 - If you have any questions about what medicine to take or not 
to take, please call your surgeon.

 
Followup Instructions:
___